US07307094B2
A mixture of 2-(3-methylthiophen-2-yl)benzoxazole-4-carboxylic acid (87 mg, 0.34 mmol), 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride (93 mg, 0.41 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (130 mg, 0.68 mmol) and 1-hydroxybenzotriazole (92 mg, 0.68 mmol) in DMF (5 mL) was stirred at room temperature for 10 min, then triethylamine (0.24 mL, 1.7 mmol) was added. The resulting reaction mixture was stirred at room temperature overnight. The mixture was diluted with dichloromethane (30 mL), and then washed with a saturated solution of sodium bicarbonate. The aqueous layer was further extracted with dichloromethane (2×30 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 90:9:1 ethyl acetate/methanol/concentrated ammonium hydroxide) to afford N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-2-(3-methylthiophen-2-yl)benzoxazole-4-carboxamide (92 mg, 69%) as an off-white solid: 1H NMR (500 MHz, CDCl3) δ 8.99 (d, J=7.0 Hz, 1H), 8.19 (dd, J=8.0, 1.0 Hz, 1H), 7.66 (dd, J=8.5, 1.0 Hz, 1H), 7.51 (d, J=5.0 Hz, 1H), 7.43 (t, J=7.5 Hz, 1H), 7.06 (d, J=5.0 Hz, 1H), 4.55-4.51 (m, 1H), 3.18-3.09 (m, 2H), 2.79 (s, 3H), 2.68-2.60 (m, 2H), 2.55 (s, 3H), 2.08-1.98 (m, 3H), 1.65-1.42 (m, 3H), 1.16-1.11 (m, 2H); MS (ESI+) m/z 396 (M+H); HPLC=98.4% (AUC), tR=12.84 min.

reactant | 2-(3-methylthiophen-2-yl)benzoxazole-4-carboxylic acid | 0.34 mmol, 87 mg | CC1=C(SC=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)O | C13H9NO3S
reactant | 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride | 0.41 mmol, 93 mg | Cl.Cl.NC1CC2CCCC(C1)N2C
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.68 mmol, 130 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.68 mmol, 92 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 1.7 mmol, 0.24 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-(9-methyl-9-azabicyclo[3.3.1]non-3-yl)-2-(3-methylthiophen-2-yl)benzoxazole-4-carboxamide | 92 mg, 69% | CN1C2CC(CC1CCC2)NC(=O)C=2C=CC=C1C2N=C(O1)C=1SC=CC1C | C22H25N3O2S
